US04616086
n-Butyl 3-{4-[1-(4-chlorophenyl)-piperazin-4-yl]-phenyl}-propionate
A mixture of 12.3 g. (55 mmole) n-butyl 3-(4-aminophenyl)-propionate, 16.0 g. (55 mmole) N,N-bis-(2-chloroethyl)-4-chloroaniline and 50 ml. n-butanol is maintained at reflux temperature for 48 hours, then 3.8 g. (27 mmole) pulverised anhydrous potassium carbonate are added thereto and stirring continued for 1 week at reflux temperature. Thereafter, it is suction filtered hot, the filtrate is evaporated in a vacuum and the residue is stirred with ligroin and suction filtered. The product is now taken up in diethyl ether, filtered and mixed with hydrogen chloride-containing diethyl ether. Since the hydrochloride is difficult to suction filter, the ether phase is evaporated in a vacuum and the residue recrystallised from n-butanol. Yield 9.5 g. (39% of theory) of hydrochloride; m.p. 179°-183° C. (decomp.).

reactant | n-butyl 3-(4-aminophenyl)-propionate | 55 mmole | NC1=CC=C(C=C1)CCC(=O)OCCCC | C13H19NO2
reactant | N,N-bis-(2-chloroethyl)-4-chloroaniline | 55 mmole | ClCCN(C1=CC=C(C=C1)Cl)CCCl | C10H12Cl3N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | n-Butyl 3-{4-[1-(4-chlorophenyl)-piperazin-4-yl]-phenyl}-propionate | ClC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)CCC(=O)OCCCC | C23H29ClN2O2
